US06087380
1-Methyl-2-[N-[4-(N-hydroxylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide
1.44 g (3.0 mmol) of 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide, 0.625 g (9.0 mMol) of hydroxylamine hydrochloride and 0.425 g (4.0 mMol) of sodium carbonate were dissolved in 80 ml of ethanol and refluxed for 7 hours. Then a further 210 mg of hydroxylamine hydrochloride and 170 mg of sodium carbonate were added, the mixture was boiled for a further 5 hours and then evaporated down in vacuo. The residue was dissolved in about 30 ml of dichloromethane, the solution obtained was washed with 20 ml of water, the organic phase was dried and evaporated down. The crude product thus obtained was purified by column chromatography (200 g silica gel, dichloromethane+4% ethanol). Yield: 39 % of theory, C28H30N6O4 (514.6) Rf value: 0.15 (silica gel; dichloromethane/ethanol=19:1) ##EQU67##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 3.0 mmol, 1.44 g | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H27N5O3
reactant | hydroxylamine hydrochloride | 9.0 mMol, 0.625 g | Cl.NO
reactant | sodium carbonate | 4.0 mMol, 0.425 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 210 mg | Cl.NO
reactant | sodium carbonate | 170 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-Methyl-2-[N-[4-(N-hydroxylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | Yield: 39 % | C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NO)=N)C)C=C1)CCC(=O)OCC | C28H30N6O4
